US05688798
A solution of 1.25 g (0.0060 mol) of 1-(2-nitro-phenyl)-piperazine and 2.1 ml (0.015 mol) of triethylamine in 20 ml of dimethylformamide was treated with 0.97 g (0.0050 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride and the mixture was stirred at room temperature under argon for 3 hours. The mixture was completely freed from the solvents and the residue was triturated in 20 ml of water. The resulting crystals were filtered off under suction, dried and chromatographed over silica gel with dichloromethane/methanol 19:1 as the eluent. 1.25 g (76%) of 2-methyl-5- [4-(2-nitro-phenyl )-piperazin-1-ylmethyl]-pyrimidin-4-ylamine were obtained as a yellow solid.

reactant | 1-(2-nitro-phenyl)-piperazine | 0.0060 mol, 1.25 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | triethylamine | 0.015 mol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride | 0.0050 mol, 0.97 g | Cl.ClCC=1C(=NC(=NC1)C)N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methyl-5- [4-(2-nitro-phenyl )-piperazin-1-ylmethyl]-pyrimidin-4-ylamine | 1.25 g, 76% | CC1=NC=C(C(=N1)N)CN1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C16H20N6O2
